US05128358
3-(Bicyclo[2.2.1]hept-2-yloxy)-4-Methoxybenzaldehyde (7:3 Endo-Exo Mixture)
Isovanillin (50 g, 0.328 mol) is placed in a 1 liter round bottom flask which is equipped with a stir bar and reflux condensor and is charged with 500 ml of dimethylformamimde. Potassium carbonate (45.3 g, 0.328 mol) is added to the reaction mixture which is heated to 80° C. At this temperature exo-2-bromonorbornane (12.57 g, 0.072 mol, 0.219 equivalents) is added and the reaction mixture is heated to 120° C. for 48 hours. The reaction is then cooled to room temperature and poured into 300 ml of water. The aqueous layer is extracted with ethyl ether (3×100 ml). The ethereal layer is washed with 1N sodium hydroxide solution (4×100 ml), water (3×100 ml) and saturated sodium chloride solution (3×100 ml). The organic layer is dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to yield 15.47 g of a green/brown oil. The crude product is purified by flash chromatography using a gradient eluent system of ethyl acetate/hexane [10% ethyl acetate/hexane→20% ethyl acetate/hexane] to yield 7.76 g (14.4%) of the aldehyde as a white solid. MP: 75.5° C.-79.5° C.

reactant | Isovanillin | 0.328 mol, 50 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | Potassium carbonate | 0.328 mol, 45.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | exo-2-bromonorbornane | 0.072 mol, 12.57 g, 0.219 equivalents | C1CC2CC1CC2Br | C7H11Br
solvent | water | 300 ml | O | H2O
product | 3-(Bicyclo[2.2.1]hept-2-yloxy)-4-Methoxybenzaldehyde | 15.47 g | C12C(CC(CC1)C2)OC=2C=C(C=O)C=CC2OC | C15H18O3
